US07323465B2
To a solution of potassium tert.-butoxide (366.5 mg) in ethylene glycol (5 ml) was added 1,2-dimethoxy ethane (5 ml) and ethanesulfonic acid [6-chloro-5-(2-methoxy-phenoxy)-[2,2′]bipyrimidinyl-4-yl]-amide (420 mg). The reaction mixture was heated to 85° C. for 7 days, concentrated in vacuo, poured onto water, acidified by 2N HCl, and extracted with ethyl acetate. The combined organic extracts were dried over magnesium sulfate and concentrated in vacuo. The precipitated product was washed with diethyl ether, filtered and dried at HV to give ethanesulfonic acid [6-(2-hydroxy-ethoxy)-5-(2-methoxy-phenoxy)-[2,2′]bipyrimidinyl-4-yl]-amide (400 mg). LC-MS: tR: 3.45, [M+H]+: 448.24.

reactant | potassium tert.-butoxide | 366.5 mg | CC(C)([O-])C.[K+]
reactant | 1,2-dimethoxy ethane | 5 ml | COCCOC | C4H10O2
reactant | ethanesulfonic acid [6-chloro-5-(2-methoxy-phenoxy)-[2,2′]bipyrimidinyl-4-yl]-amide | 420 mg | ClC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)CC)OC1=C(C=CC=C1)OC | C17H16ClN5O4S
solvent | ethylene glycol | 5 ml | C(CO)O | C2H6O2
product | ethanesulfonic acid [6-(2-hydroxy-ethoxy)-5-(2-methoxy-phenoxy)-[2,2′]bipyrimidinyl-4-yl]-amide | 400 mg | OCCOC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)CC)OC1=C(C=CC=C1)OC | C19H21N5O6S
